US07446102B2
Benzyl{(4S)-4-[(tert-butoxycarbonyl)amino]-5-[(2,3-dihydroxypropyl)amino]-5-oxopentyl}carbamate
658.5 mg (1.8 mmol) of HATU and 129.2 mg (1 mmol) of N,N-diisopropylethylamine are added to a solution of 366 mg (1 mmol) of N5-[(benzyloxy)carbonyl]-N2-(tert-butoxycarbonyl)-L-ornithine in 15 ml of anhydrous DMF. After stirring at RT for 15 min, 182.2 mg (1 mmol) of 3-aminopropane-1,2-diol are added. The reaction mixture is stirred at RT for 15 h. The solvent is then evaporated and the residue is taken up in dichloromethane. The organic phase is washed with water, dried over magnesium sulfate and concentrated. The crude product is purified by preparative HPLC.

reactant | HATU | 1.8 mmol, 658.5 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 1 mmol, 129.2 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N5-[(benzyloxy)carbonyl]-N2-(tert-butoxycarbonyl)-L-ornithine | 1 mmol, 366 mg | C(C1=CC=CC=C1)OC(=O)NCCC[C@H](NC(=O)OC(C)(C)C)C(=O)O | C18H26N2O6
reactant | 3-aminopropane-1,2-diol | 1 mmol, 182.2 mg | NCC(CO)O | C3H9NO2
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | Benzyl{(4S)-4-[(tert-butoxycarbonyl)amino]-5-[(2,3-dihydroxypropyl)amino]-5-oxopentyl}carbamate | C(C1=CC=CC=C1)OC(NCCC[C@@H](C(=O)NCC(CO)O)NC(=O)OC(C)(C)C)=O | C21H33N3O7
